US05149843
To a solution of ethyl 2-(1-methylethyl)-5,9-dimethyl-2,4,8-decatrienate (280 mg, 1.14 mmol) in toluene (5 ml) chilled at -72° C. under argon atmosphere was dropwise added 0.92M solution of diisobutylaluminum hydride in hexane (3.72 ml, 3.42 mmol). After stirring at -72° C. for 10 minutes, the reaction mixture was mixed with water (1.5 ml) for stopping the reaction. The reaction mixture was vigorously stirred at room temperature for 1 hour, and precipitates were filtered off. The filtrate was concentrated and the residue was chromatographed on a silica gel column to give 2-(1-methylethyl)-5,9-dimethyl-2,4,8-decatrien-1-ol (214 mg, 84%).

reactant | ethyl 2-(1-methylethyl)-5,9-dimethyl-2,4,8-decatrienate | 1.14 mmol, 280 mg | CC(C)C(C(=O)OCC)=CC=C(CCC=C(C)C)C | C17H28O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hexane | 3.42 mmol, 3.72 ml | CCCCCC | C6H14
reactant | water | 1.5 ml | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-methylethyl)-5,9-dimethyl-2,4,8-decatrien-1-ol | 214 mg, 84% | CC(C)C(CO)=CC=C(CCC=C(C)C)C | C15H26O
